US05254755
As another example, 2-methyl-1,1,1,3,3-pentafluoro-2-butanol may be prepared by fluorinating commercially available 2-methyl-1-buten-3-yne to form 2-methyl-1,2,3,4-tetrafluoro-1-butene which may then be reacted with hydrogen fluoride to form 2-methyl-1,2,3,3,4-pentafluorobutane. The 2-methyl-1,2,3,3,4-pentafluorobutane may then be dehalogenated to form 3-methyl-2,3,4-trifluoro-1-butene which may then be reacted with hydrogen fluoride to form 2-methyl-1,2,3,3-tetrafluorobutane. The 2-methyl-1,2,3,3-tetrafluorobutane may then be dehalogenated to form 2-methyl-1,3,3-trifluoro-1-butene which may then be fluorinated to form 2-methyl-1,1,2,3,3-pentafluorobutane. The 2-methyl-1,1,2,3,3-pentafluorobutane may then be dehydrohalogenated to form 2-methyl-1,1,3,3-tetrafluoro-1-butene which may then be reacted with hydrogen fluoride to form 2-methyl-1,1,1,3,3-pentafluorobutane. The 2-methyl-1,1,1,3,3-pentafluorobutane may then be dehydrogenated and then reacted with sulfuric acid and water to form 2-methyl-1,1,1,3,3-pentafluoro-2-butanol.

reactant | 2-methyl-1,1,1,3,3-pentafluorobutane | CC(C(F)(F)F)C(C)(F)F | C5H7F5
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | 2-methyl-1,1,1,3,3-pentafluoro-2-butanol | CC(C(F)(F)F)(C(C)(F)F)O | C5H7F5O
